US08053455B2
Step A: Ethyl 5-iodo-4-methylpentanoate
A 1.0 M tetrahydrofuran solution of borane tetrahydrofuran complex (15.0 mL, 15.0 mmol) was slowly added to a tetrahydrofuran solution (7 mL) of ethyl 4-methyl-4-pentenoate (6.07 g, 42.7 mmol) at 0° C. The solution was heated to 50° C. for one hour then cooled to ambient temperature. Anhydrous methanol (1 mL) was added to quench the excess hydride, followed by sodium acetate (43 mL, 43.0 mmol) in methanol. To this reaction mixture at ambient temperature was added slowly iodine monochloride (1.5 mL, 30 mmol). The reaction mixture was stirred for two hours and poured into water (50 mL). Saturated aqueous sodium thiosulfate was added, and the mixture was extracted with diethyl ether (3×100 mL). The combined organic extracts were washed with brine, dried (magnesium sulfate), and concentrated in vacuo. The residue was purified by column chromatography on silica gel, eluting with 0-30% ethyl acetate/hexanes to give the title compound as a colorless oil. 1H NMR (500 MHz, CDCl3) δ 1.00 (d, J=5.5 Hz, 3H), 1.25 (t, J=7.0 Hz, 3H), 1.45-1.60 (m, 2H), 1.70-1.78 (m, 1H), 2.30 (t, J=7.1 Hz, 2H), 3.15 (dd, J=4.7, 9.4 Hz, 1H), 3.21 (dd, J=6.3, 9.4 Hz, 1H), 4.12 (q, J=7.1 Hz, 2H).

reactant | ethyl 4-methyl-4-pentenoate | 42.7 mmol, 6.07 g | CC(CCC(=O)OCC)=C | C8H14O2
reactant | sodium acetate | 43.0 mmol, 43 mL | C(C)(=O)[O-].[Na+]
reactant | iodine monochloride | 30 mmol, 1.5 mL | ICl | ClI
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 M | O1CCCC1 | C4H8O
product | Ethyl 5-iodo-4-methylpentanoate | ICC(CCC(=O)OCC)C | C8H15IO2
